US03977996
A solution of 120 g (3.0 moles) of sodium hydroxide was dissolved in 500 ml of distilled water. 2-Ethylhexanoic acid (491 g. 3.3. moles) was added with stirring to form sodium 2-ethylhexanoate. In a separate container 200 g (0.5 mole) of chromium nitrate nonahydrate was dissolved in 500 ml of distilled water. The chromium nitrate solution was slowly added to the sodium 2-ethylhexanoate solution with good stirring. When the addition was complete, 500 ml of hexane were added and stirring was continued for 10 minutes. The layers were separated and the hexane layer containing the aquated chromium III tri-2-ethylhexanoate was washed with dilute sodium hydroxide solution, water, dilute sodium carbonate solution and finally with distilled water. The hexane solution was then dried over anhydrous magnesium sulfate. Most of the hexane was removed under reduced pressure and the resulting concentrate was slowly added to 500 ml of acetone. The resulting blue granular solid was filtered and air dried to yield 130 g (54%) of aquated chromium tri-2-ethylhexanoate. Molecular weight determination indicated that the compound is polymeric in nature, probably due to the oxygen bridging of chromium atoms.

reactant | sodium hydroxide | 3.0 moles, 120 g | [OH-].[Na+]
reactant | 2-Ethylhexanoic acid | 491 g | C(C)C(C(=O)O)CCCC | C8H16O2
solvent | water | 500 ml | O | H2O
product | sodium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[Na+] | InChI=1S/C8H16O2.Na/c1-3-5-6-7(4-2)8(9)10;/h7H,3-6H2,1-2H3,(H,9,10);/q;+1/p-1
